US03978071
A mixture of 38 g of ethyl 4-(chloroacetyl)phenylacetate, 60 ml of ethanol and 32 g of 2-aminothiazole is heated under reflux for 2 hours. The ethanol is distilled off under reduced pressure, and water is added to the residue. The mixture is extracted with benzene, and the extract is washed with water, dried and concentrated. To the residual reddish brown oil are added benzene and isopropyl ether, and the crystalline precipitate is filtered off and recrystallized from ethanol to give 14 g of ethyl 4-(imidazo[2,1-b]-thiazol-6-yl)phenylacetate as colorless crystals melting at 117°-119°C.

reactant | ethyl 4-(chloroacetyl)phenylacetate | 38 g | ClCC(=O)C1=CC=C(C=C1)CC(=O)OCC | C12H13ClO3
reactant | 2-aminothiazole | 32 g | NC=1SC=CN1 | C3H4N2S
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | ethyl 4-(imidazo[2,1-b]-thiazol-6-yl)phenylacetate | 14 g | S1C=2N(C=C1)C=C(N2)C2=CC=C(C=C2)CC(=O)OCC | C15H14N2O2S
